US08242145B2
Step 1: {3-[4-(Benzhydrylidene-amino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 90, Step 1, using the following starting materials: {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and benzophenone imine.

reactant | {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C21H22BrNO6
reactant | benzophenone imine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
product | {3-[4-(Benzhydrylidene-amino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(OCC1)=O)=O | C34H32N2O6
